US03953500
To 250 ml. of ethanol is added 20 ml. of concentrated sulfuric acid, followed by the addition of 13.3 g. of 4-benzoylindan-1-carboxylic acid. The mixture is refluxed for 5.5 hours. After cooling, the ethanol is distilled off under reduced pressure and water is added to the residue, followed by extraction with ether. The ethereal layer is washed with a 5 % aqueous solution of sodium hydroxide and a saturated aqueous solution of sodium chloride and, then, dried. The solvent is distilled off under reduced pressure and the residue is purified by column chromatography on silica gel (eluted with chloroform). The described procedure gives ethyl 4-benzoylindan-1-carboxylate as an oily product.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 4-benzoylindan-1-carboxylic acid | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)C(=O)O | C17H14O3
reactant | ethanol | C(C)O | C2H6O
product | ethyl 4-benzoylindan-1-carboxylate | C(C1=CC=CC=C1)(=O)C1=C2CCC(C2=CC=C1)C(=O)OCC | C19H18O3
